US06861529B2
Preparation of 4-Oxo-4,4a,5,6,7,7a,8,9-octahydro-1H-1,6-diaza-cyclopenta[f]azulene-3-carboxylic acid pyridin-2-ylamide
Pd(OH)2 (Pearlman's catalyst, 30 mg) is added to a solution of 6-benzyl-4-oxo-4,4a,5,6,7,7a,8,9-octahydro-1H-1,6-diaza-cyclopenta[f]azulene-3-carboxylic acid pyridin-2-ylamide (65 mg, 0.16 mmol) and HCOONH4 (204 mg, 3.24 mmol) in EtOH (10 ml). The reaction mixture is heated at 78° C. for 20 min. Pd catalyst is filtered off with celite. The solvent is removed by rotavapor. The residue is loaded on a column (0.5% TEA+19.5% MeOH+80% CH3CN) to provide the title compound (20 mg, 40%) as white solid. This compound may be salted as HCl salt. 1H NMR (400 MHz, CD3OD) δ 1.98 (1H, m), 2.01-2.16 (2H, m), 2.65 (1H, m), 3.02-3.25 (5H, m), 3.76 (1H, m), 7.09 (1H, m), 7.57 (1H, s), 7.78 (1H, m), 8.27 (2H, m). MS (ES+) 311 (M+1)

reactant | 6-benzyl-4-oxo-4,4a,5,6,7,7a,8,9-octahydro-1H-1,6-diaza-cyclopenta[f]azulene-3-carboxylic acid pyridin-2-ylamide | 0.16 mmol, 65 mg | N1=C(C=CC=C1)NC(=O)C1=CNC=2CCC3C(C(C12)=O)CN(C3)CC3=CC=CC=C3 | C24H24N4O2
reactant | HCOONH4 | 3.24 mmol, 204 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd(OH)2 | 30 mg | [OH-].[OH-].[Pd+2]
product | 4-Oxo-4,4a,5,6,7,7a,8,9-octahydro-1H-1,6-diaza-cyclopenta[f]azulene-3-carboxylic acid pyridin-2-ylamide | 20 mg, 40% | N1=C(C=CC=C1)NC(=O)C1=CNC=2CCC3C(C(C12)=O)CNC3 | C17H18N4O2
